US08207164B2
a) 5-Fluoromethoxy-3-methyl-pyridine-2-carbonitrile
To a solution of 5-hydroxy-3-methyl-pyridine-2-carbonitrile (CAS registry 228867-86-5) (228 mg, 1.70 mmol) in DMF (10 ml) was added a solution of toluene-4-sulfonic acid fluoromethyl ester (CAS registry 114435-86-8) (521 mg, 2.55 mmol) and Cs2CO3 (1.386 g, 4.26 mmol) in DMF (4 ml). The reaction mixture was stirred for 1 h at 100° C., then for 1 h at 70° C., diluted with EtOAc and washed with saturated aqueous NH4Cl soln. and brine. The aqueous layers were reextracted with EtOAc, the combined organic layers dried over Na2SO4, filtrated and the filtrate was concentrated. The title compound was obtained as a white solid after flash chromatography on silica gel (cyclohexane/EtOAc gradient 0-3 min 95:5, 3-30 min 95:5 to 65:35).

reactant | 5-hydroxy-3-methyl-pyridine-2-carbonitrile | 1.70 mmol, 228 mg | OC=1C=C(C(=NC1)C#N)C | C7H6N2O
reactant | toluene-4-sulfonic acid fluoromethyl ester | 2.55 mmol, 521 mg | FCOS(=O)(=O)C1=CC=C(C=C1)C | C8H9FO3S
reactant | Cs2CO3 | 4.26 mmol, 1.386 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-Fluoromethoxy-3-methyl-pyridine-2-carbonitrile | FCOC=1C=C(C(=NC1)C#N)C | C8H7FN2O
